US04083725
A 10g amount of benzanthrone was dissolved in a solvent mixture of 100g acetic acid and 100 g of water. 6 g of potassium chlorate was added to the solution and the mixture was heated and stirred at 90°-95° C for 2 hours. 12 g of conc. hydrochloric acid was added dropwise to the mixture during 1 hour and 20 minutes. After the addition, the mixture was stirred for 1 hour to complete the reaction. The reaction mixture was cooled, filtered, washed with water and dried. The product was recrystallized from chlorobenzene to obtain 3-chlorobenzanthrone having a melting point of 179°-190° C (orange needle crystals).

reactant | benzanthrone | C1=CC=C2C=CC=C3C(=O)C4=CC=CC=C4C1=C23 | C17H10O
reactant | water | 100 g | O | H2O
reactant | potassium chlorate | 6 g | Cl(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 12 g | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-chlorobenzanthrone | ClC=1C=CC=2C3=CC=CC=C3C(C3=CC=CC1C23)=O | C17H9ClO
